US04888332
Preparation of 5-ethoxycarbonylmethyl-7-hydroxy-s-triazolo[1,5-a]pyrimidine
A suspension of 3-amino-s-triazole (28 g) and diethyl acetonedicarboxylate (100 g) in 100 ml of acetic acid was refluxed for six hours. After cooling to room temperature, 150 ml of concentrated hydrochloric acid was added under ice cooling, the crystals thus formed were collected by filtration, and washed twice with 100 ml of ethanol, then once with 100 ml of ether, affording 71 g of the objective compound as colorless crystals.

reactant | 3-amino-s-triazole | 28 g | NC1=NNC=N1 | C2H4N4
reactant | diethyl acetonedicarboxylate | 100 g | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-ethoxycarbonylmethyl-7-hydroxy-s-triazolo[1,5-a]pyrimidine | 71 g | C(C)OC(=O)CC1=NC=2N(C(=C1)O)N=CN2 | C9H10N4O3
